US07399867B2
1 (2-{4-[6-Benzyloxy-2-(3-fluoro-4-methanesulfonyl-phenyl)-benzo[b]thiophen-3-yloxy]-phenoxy}-ethyl)-piperidine
Dissolve 1-{2-[4-(6-benzyloxy-2-bromo-benzo[b]thiophen-3-yloxy)-phenoxy]-ethyl}-piperidine (350 mg, 0.65 mmol) and 3-fluoro-4-methanesulfonyl-phenyl-boronic acid (213 mg, 0.98 mmol) in dioxane (10 mL) and add 10% aqueous sodium carbonate (9 mL) and Pd(PPh3)4 (75 mg, 0.065 mmol). Heat to reflux for 3 hours. Partition the reaction mixture between dichloromethane (20 mL) and saturated aqueous ammonium chloride (20 mL). Wash the organic layer with brine (30 mL), dry with sodium sulfate, and concentrate in vacuo. Chromatograph the residue on a SiO2 column eluting with methanol in dichloromethane (0 to 5%) to give 150 mg of the title compound contaminated with a 2-H reduced byproduct. Take the mixture on to the next step without further purification.

reactant | 1-{2-[4-(6-benzyloxy-2-bromo-benzo[b]thiophen-3-yloxy)-phenoxy]-ethyl}-piperidine | 0.65 mmol, 350 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2OC2=CC=C(OCCN3CCCCC3)C=C2)Br)C1 | C28H28BrNO3S
reactant | 3-fluoro-4-methanesulfonyl-phenyl-boronic acid | 0.98 mmol, 213 mg | FC=1C=C(C=CC1S(=O)(=O)C)B(O)O | C7H8BFO4S
reactant | sodium carbonate | 9 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.065 mmol, 75 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2-{4-[6-Benzyloxy-2-(3-fluoro-4-methanesulfonyl-phenyl)-benzo[b]thiophen-3-yloxy]-phenoxy}-ethyl)-piperidine | 150 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2OC2=CC=C(OCCN3CCCCC3)C=C2)C2=CC(=C(C=C2)S(=O)(=O)C)F)C1 | C35H34FNO5S2
